US04548944
2-Guanidino-4-(2-amino-phenyl)-thiazole
A solution of 57 gm of sodium sulfide octahydrate in 400 ml of methanol and 120 ml of water was added dropwise over a period of 30 minutes to a hot (60° C.) solution of 16.9 gm of 2-guanidino-4-(2-nitro-phenyl)-thiazole in 120 ml of methanol. After an additional 2 hours of heating at 60° C., the solution was filtered with charcoal and evaporated to dryness. The residual solid was suspended in water, filtered off and dried, yielding 12.4 gm of the title compound, m.p. 198°-200° C.

reactant | sodium sulfide octahydrate | 57 gm | O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | 2-guanidino-4-(2-nitro-phenyl)-thiazole | 16.9 gm | N(C(=N)N)C=1SC=C(N1)C1=C(C=CC=C1)[N+](=O)[O-] | C10H9N5O2S
solvent | methanol | 400 ml | CO | CH4O
solvent | water | 120 ml | O | H2O
solvent | methanol | 120 ml | CO | CH4O
product | 2-Guanidino-4-(2-amino-phenyl)-thiazole | 12.4 gm | N(C(=N)N)C=1SC=C(N1)C1=C(C=CC=C1)N | C10H11N5S
